US08304419B2
Step B: 4-Acetyl-3-chloro-1H-pyrrole-2-carboxylic acid
Methyl 5-acetyl-3-chloro-1H-pyrrole-2-carboxylate (0.034 g, 0.169 mmol) was dissolved in THF (1 mL), methanol (1 mL) and 1N LiOH (1 mL). The reaction mixture was heated to 60° C. and stirred. The reaction mixture was evaporated and purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.033 g, 67%) as an impure product which was used with no further purification. LCMS: m/z 187.9 (M+1).

reactant | Methyl 5-acetyl-3-chloro-1H-pyrrole-2-carboxylate | 0.169 mmol, 0.034 g | C(C)(=O)C1=CC(=C(N1)C(=O)OC)Cl | C8H8ClNO3
reactant | methanol | 1 mL | CO | CH4O
reactant | LiOH | 1N, 1 mL | [Li+].[OH-]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-Acetyl-3-chloro-1H-pyrrole-2-carboxylic acid | 0.033 g, 67% | C(C)(=O)C=1C(=C(NC1)C(=O)O)Cl | C7H6ClNO3
